US08193164B2
Step EA2: {2-Chloro-9-[(1R,4S)-4-(5-ethyl-tetrazol-2-yl)-cyclopent-2-enyl]-9H-purin-6-yl}-(2,2-diphenyl-ethyl)-amine
The title compound is prepared analogously to N-{(1S,2R,3S,4R)-4-[2-chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-propionamide (AA7) by replacing N-[(1S,2R,3S,4R)-4-(2,6-dichloro-purin-9-yl)-2,3-dihydroxy-cyclopentyl]-propionamide (160 mg, 0.44 mmol) with 2,6-dichloro-9-[(1R,4S)-4-(5-ethyl-tetrazol-2-yl)-cyclopent-2-enyl]-9H-purine (EA1). MS (ES+) m/e 512.2 (MH+)

reactant | N-{(1S,2R,3S,4R)-4-[2-chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-propionamide | ClC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(CC)=O)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C27H29ClN6O3
reactant | 2,6-dichloro-9-[(1R,4S)-4-(5-ethyl-tetrazol-2-yl)-cyclopent-2-enyl]-9H-purine | ClC1=NC(=C2N=CN(C2=N1)[C@H]1C=C[C@H](C1)N1N=C(N=N1)CC)Cl | C13H12Cl2N8
product | {2-Chloro-9-[(1R,4S)-4-(5-ethyl-tetrazol-2-yl)-cyclopent-2-enyl]-9H-purin-6-yl}-(2,2-diphenyl-ethyl)-amine | ClC1=NC(=C2N=CN(C2=N1)[C@H]1C=C[C@H](C1)N1N=C(N=N1)CC)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C27H26ClN9
